US07282512B2
To 2.85 g (33.88 mmol) of cyclobutanone in 170 mL of tetrahydrofuran at 0° C. was added 25.41 mL (50.82 mmol) of a 2 M solution of benzyl magnesium chloride in tetrahydrofuran and the mixture was allowed to warm to RT and stirred for 17 h. The reaction was quenched with ice, then acidified with 1 N hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel column chromatography eluting with an ethyl acetate:hexanes solution (1:6) to give 3.14 g (53%) of 1-benzylcyclopentanol. 1H NMR (300 MHz, DMSO-d6) δ 7.27-7.19 (m, 5H), 4.19 (s, 1H), 2.78 (s, 2H), 1.69 (br m, 2H), 1.51 (br m, 6H); ES-LCMS m/z 176 (M+H).

reactant | cyclobutanone | 33.88 mmol, 2.85 g | C1(CCC1)=O | C4H6O
reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | 1-benzylcyclopentanol | 3.14 g, 53% | C(C1=CC=CC=C1)C1(CCCC1)O | C12H16O
